US08492395B2
To a stirred suspension of 3-(6-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride (0.47 g, 1.4 mmol) and triethylamine (0.27 mL, 2.0 mmol) in THF (8 mL) at 5-10° C., was added 4-chlorophenyl isocyanate (0.28 g, 1.8 mmol), and the mixture was stirred at room temperature overnight. The mixture was quenched with methanol (˜1 mL), and the solvent was evaporated. The residue was purified by flash column chromatography (Silica gel, methanol/methylene chloride 4%/96%) to give 1-(4-chloro-phenyl)-3-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-6-ylmethyl]-urea as an off-white solid (400 mg, 63% yield); HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 CH3CN/0.1% H3PO4, grad. to 95/5 in 5 min, kept 5 min, 6.18 min (98.9%); mp, 225-227° C.; 1HNMR (DMSO-d6) 2.15-2.20 (m, 1H, CHH), 2.56-2.91 (m, 6H, CHCH2, CH), 4.41 (d, J=5 Hz, 2H, CH2NH), 5.26 (dd, J=6, 11 Hz, 1H, CH), 6.81 (t, J=6 Hz, 1H, CH2NH), 7.23-7.95 (m, 7H, Ar), 8.80 (s, 1H, NH), 11.02 (s, 1H, NH); 13C NMR (DMSO-d6) δ 20.93, 23.38, 30.61, 42.33, 56.54, 119.23, 120.01, 123.67, 124.57, 126.53, 128.42, 133.95, 139.05, 139.37, 145.74, 154.53, 155.09, 160.46, 169.47, 172.60. LCMS MH=454, 456; Anal Calcd For C22H20N5O4Cl+0.8H2O: C, 56.43; H, 4.65; N, 14.95; Cl, 7.57. Found: C, 56.45; H, 4.56; N, 14.87; Cl, 7.69.

reactant | 3-(6-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride | 1.4 mmol, 0.47 g | Cl.NCC=1C=C2C(N(C(=NC2=CC1)C)C1C(NC(CC1)=O)=O)=O
reactant | triethylamine | 2.0 mmol, 0.27 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chlorophenyl isocyanate | 1.8 mmol, 0.28 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 1-(4-chloro-phenyl)-3-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-6-ylmethyl]-urea | 400 mg, 63% yield | ClC1=CC=C(C=C1)NC(=O)NCC=1C=C2C(N(C(=NC2=CC1)C)C1C(NC(CC1)=O)=O)=O | C22H20ClN5O4
